US09353101B2
Step C: (4S,5R)-3-{[2-(azetidin-1-yl)-5-(3,5-dimethylisoxazol-4-yl)pyrimidin-4-yl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-(3,5-dimethylisoxazol-4-yl)-2-(methylsulfonyl)pyrimidin-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one was dissolved in an excess amount of cyclobutylamine in THF, then heated to 150° C. for 2 hours in a microwave reactor. The reaction mixture was evaporated, then reconstituted in methanol and purified by preparative reverse phase HPLC to give the title compound. LCMS (M+H)+: 556.1. 1H NMR (CDCl3, 500 MHz): δ 8.15 (s, 1H), 7.91 (s, 1H), 7.74 (s, 2H), 5.77 (d, 1H), 4.50-4.30 (m, 6H), 3.92 (t, 1H), 2.53 (m, 2H), 2.32 (d, 3H), 2.16 (d, 3H), 0.77 (d, 3H). RTA IC50: 271 nM.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[5-(3,5-dimethylisoxazol-4-yl)-2-(methylsulfonyl)pyrimidin-4-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=NC(=NC=C1C=1C(=NOC1C)C)S(=O)(=O)C)C)(F)F | C23H20F6N4O5S
reactant | cyclobutylamine | C1(CCC1)N | C4H9N
solvent | THF | C1CCOC1 | C4H8O
product | (4S,5R)-3-{[2-(azetidin-1-yl)-5-(3,5-dimethylisoxazol-4-yl)pyrimidin-4-yl]methyl}-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-1,3-oxazolidin-2-one | N1(CCC1)C1=NC=C(C(=N1)CN1C(O[C@@H]([C@@H]1C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C=1C(=NOC1C)C | C25H23F6N5O3
